US06716861B2
(3R)-3-(3-amino-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoic acid
A solution of tert-butyl (3R)-6-cyclohexyl-3-[3-(hydrazinocarbonyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 71) (1.06 g, 2.76 mmol) in glacial AcOH (10 ml) was treated with 2M HCl (10 ml) and stirred at room temperature for 30 minutes. The reaction mixture was cooled to 0° C. before being treated with a solution of NaNO2 (278 mg, in 5 ml H2O) making sure the temperature never rose above 5° C. The reaction mixture was stirred at 0° C. for 30 minutes and then allowed to warm to room temperature before being heated at 85° C. until the evolution of gas a finished. The reaction mixture was neutralised with sat. Na2CO3 solution and extracted with EtOAc. The organic extract was washed with brine and the solvent removed under reduced pressure. The residue was treated with TFA (4 ml) and stirred at room temperature for 1 hour. The solvent was removed under reduced pressure and the residue azeotroped from toluene (×3) and DCM (×3) to afford the title compound as a foam (390 mg, 50%).

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-(hydrazinocarbonyl)-1,2,4-oxadiazol-5-yl]hexanoate | 2.76 mmol, 1.06 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)NN | C19H32N4O4
reactant | HCl | 2M, 10 ml | Cl | ClH
reactant | NaNO2 | 5 ml, 278 mg | N(=O)[O-].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | (3R)-3-(3-amino-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoic acid | 390 mg, 50% | NC1=NOC(=N1)[C@@H](CC(=O)O)CCCC1CCCCC1 | C14H23N3O3
